US05280022
A mixture of 2-hydroxypyridine (6.0 g), N-(4-bromobutyl)phthalimide (17.8 g), potassium carbonate (8.7 g) and N,N-dimethylformamide (DMF) (80 ml) was stirred at 100° C. for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), then the solvent was distilled off under reduced pressure. The oily residue was subjected to a silica gel column chromatography. From the fraction eluted with chloroform-ethyl acetate (4:1 v/v), N-[4-(2-pyridyloxy)butyl]phthalimide (4.4 g, 23%) was obtained Recrystallization of the product from ether gave colorless prisms, m.p. 77° C. to 78° C.

reactant | 2-hydroxypyridine | 6.0 g | OC1=NC=CC=C1 | C5H5NO
reactant | N-(4-bromobutyl)phthalimide | 17.8 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[4-(2-pyridyloxy)butyl]phthalimide | 4.4 g, 23% | N1=C(C=CC=C1)OCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H16N2O3
